US08242145B2
Step 3: [3-(4-Bromo-2-bromomethyl-phenoxy)-phenyl]-acetic acid ethyl ester
To [3-(4-bromo-2-hydroxymethyl-phenoxy)-phenyl]-acetic acid ethyl ester (0.7 g, 1.86 mmol) in 1,4-dioxane (10 mL) was added phosphorus tribromide (0.19 mL, 2.04 mmol), and the reaction was stirred for 1 hour at room temperature. After work-up, 0.6 g of the desired product was obtained.

reactant | [3-(4-bromo-2-hydroxymethyl-phenoxy)-phenyl]-acetic acid ethyl ester | 1.86 mmol, 0.7 g | C(C)OC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)Br)CO)=O | C17H17BrO4
reactant | phosphorus tribromide | 2.04 mmol, 0.19 mL | P(Br)(Br)Br | Br3P
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | [3-(4-Bromo-2-bromomethyl-phenoxy)-phenyl]-acetic acid ethyl ester | 0.6 g | C(C)OC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)Br)CBr)=O | C17H16Br2O3
